US07763648B2
Step C. (7a-Methyl-1,5-dioxo-octahydro-inden-4-yloxy)-acetaldehyde
A commercial 4% w/w solution of osmium tetraoxide (10 mL, 0.82 mmol, 0.005 eq) was added to a stirred mixture of 4-allyloxy-7a-methyl-hexahydro-indene-1,5-dione (36.4 g, 164 mmol), 2,6-lutidine (57.2 mL, 246 mmol, 1.5 eq) and sodium periodate (210.6 g, 492 mmol, 3 eq) in dioxane (900 mL) and water (300 mL) at 0° C. The reaction mixture was then allowed to warm slowly to room temperature, and stirred for 24 h. The reaction mixture was cooled to 0° C., and then filtered through a fritted funnel. DCM (1 L) was used to wash to salt cake, and the filtrate was used to extract the separated aqueous solution (4×250 mL). The combined organic layer was dried with magnesium sulfate. The resulting mixture was filtered, condensed and the resulting residue purified by flash chromatography using 20-90% ethyl acetate in hexane yield the title compound as a light yellow foam.

reactant | 4-allyloxy-7a-methyl-hexahydro-indene-1,5-dione | 164 mmol, 36.4 g | C(C=C)OC1C2CCC(C2(CCC1=O)C)=O | C13H18O3
reactant | 2,6-lutidine | 246 mmol, 57.2 mL, 1.5 eq | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium periodate | 492 mmol, 210.6 g, 3 eq | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 900 mL | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
catalyst | osmium tetraoxide | 0.82 mmol, 10 mL, 0.005 eq | [Os](=O)(=O)(=O)=O
product | (7a-Methyl-1,5-dioxo-octahydro-inden-4-yloxy)-acetaldehyde | CC12CCC(C(C2CCC1=O)OCC=O)=O | C12H16O4
